US08445501B2
5-Cyclobutylmethoxy-benzo[1,3]dioxole
Starting from commercially available bromomethyl-cyclobutane and sesamol the title compound is obtained as colorless solid.

reactant | bromomethyl-cyclobutane | BrCC1CCC1 | C5H9Br
reactant | sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
product | 5-Cyclobutylmethoxy-benzo[1,3]dioxole | C1(CCC1)COC1=CC2=C(OCO2)C=C1 | C12H14O3
